US09340527B2
Into a sealed tube were added ethyl 1-((6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate (500 mg, 1.12 mmol), 1-tert-butyl-4-methylenecyclohexane (340 mg, 2.24 mmol, 2 eq), K2CO3 (309 mg, 2.24 mmol, 2 eq), Xantphos (130 mg, 0.22 mmol, 0.2 eq), Pd(OAc)2 (25 mg, 0.11 mmol, 0.1 eq) and NMP (2 mL). The mixture was flushed with N2 for 5 min. Then the reaction was stirred at 120° C. for 12 h. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with water (5 mL*3). The organic solvent was removed in vacuum and the residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=2:1) to give ethyl 1-((6-((4-tert-butylcyclohexylidene)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate (180 mg, yield: 35%) as a yellow solid. ESI-MS (M+1)+: 448.3. 1HNMR (400 MHz, CDCl3) δ: 7.76-7.73 (m, 2H), 7.68 (s, 1H), 7.61 (s, 1H), 7.46 (d, J=8.0 Hz, 1H), 7.34 (d, J=8.8 Hz, 1H), 6.34 (s, 1H), 4.13 (q, J=8.8 Hz, 2H), 3.64 (s, 2H), 2.92-2.89 (m, 2H), 2.30-2.25 (m, 2H), 2.08-2.05 (m, 2H), 1.94-1.77 (m, 8H), 1.60 (br, 2H), 1.26-1.23 (m, 5H), 0.87 (s, 9H).

reactant | ethyl 1-((6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 1.12 mmol, 500 mg | FC(S(=O)(=O)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC)(F)F | C20H22F3NO5S
reactant | 1-tert-butyl-4-methylenecyclohexane | 2.24 mmol, 340 mg, 2 eq | C(C)(C)(C)C1CCC(CC1)=C | C11H20
reactant | K2CO3 | 2.24 mmol, 309 mg, 2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | Xantphos | 0.22 mmol, 130 mg, 0.2 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd(OAc)2 | 0.11 mmol, 25 mg, 0.1 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | ethyl 1-((6-((4-tert-butylcyclohexylidene)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 180 mg, yield: 35% | C(C)(C)(C)C1CCC(CC1)=CC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C30H41NO2
